US04124369
14 g (0.123 mol) of freshly distilled tert.-butylglyoxal were dissolved in 150 ml of absolute benzene. 19.1 g (0.123 mol) of p-chlorobenzamide were added and the mixture was heated for 15 hours under reflux. On cooling, the reaction product crystallised out. 16.1 g (54% of theory) of 1-(p-chlorobenzamido)-3,3-dimethyl-1-hydroxy-butan-2-one of melting point 130° C. were obtained.

reactant | tert.-butylglyoxal | C(C)(C)(C)C(=O)C=O | C6H10O2
reactant | p-chlorobenzamide | 0.123 mol, 19.1 g | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-chlorobenzamido)-3,3-dimethyl-1-hydroxy-butan-2-one | 16.1 g, 54% | ClC1=CC=C(C(=O)NC(C(C(C)(C)C)=O)O)C=C1 | C13H16ClNO3
